US07601844B2
A solution of tert-butyl 8-(4-chlorophenyl)-8-hydroxy-5-azaspiro[2.5]octane-5-carboxylate (1.81 g, 5.36 mmol) in dioxane (2 mL) was treated with 4.0 M HCl in dioxane (7 mL, 28.0 mmol), and the reaction was stirred for 30 minutes at room temperature. The mixture was concentrated in-vacuo then concentrated 2× from methylene chloride to remove residual HCl. The residue was dissolved in water and washed 2× with diethyl ether. The aqueous phase was treated with sodium bicarbonate until the mixture was basic, then washed 2× with 10 mL diethyl ether. The aqueous phase was treated with solid sodium hydroxide until the pH was >13, and the mixture was extracted 5× with ethyl acetate. The combined ethyl acetate extracts were dried over sodium sulfate and concentrated in vacuo to yield (±)-8-(4-chlorophenyl)-5-azaspiro[2.5]octan-8-ol as a colorless powder (1.1 g, 87% yield). MS (ESI+)=238.1, (M+H)+. The isomers were separated via chiral super critical fluid chromatography to yield 463 mg of isomer A and 522 mg of isomer B.

reactant | tert-butyl 8-(4-chlorophenyl)-8-hydroxy-5-azaspiro[2.5]octane-5-carboxylate | 5.36 mmol, 1.81 g | ClC1=CC=C(C=C1)C1(CCN(CC12CC2)C(=O)OC(C)(C)C)O | C18H24ClNO3
reactant | HCl | 4.0 M | Cl | ClH
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 28.0 mmol, 7 mL | O1CCOCC1 | C4H8O2
product | (±)-8-(4-chlorophenyl)-5-azaspiro[2.5]octan-8-ol | 1.1 g, 87% yield | ClC1=CC=C(C=C1)C1(CCNCC12CC2)O | C13H16ClNO
